US08912188B2
To a solution of (S)-methyl 2-(4-fluorophenyl)-7-hydroxy-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate (150 mg, 0.39 mmol) in methanol (30 ml) and water (1 ml) was added sodium hydroxide (19.5 mg, 0.49 mmol), and the reaction was stirred overnight at room temperature. The reaction mixture was concentrated in vacuo, dissolved in water (30 mL), and adjusted to pH 5 with hydrochloric acid (3N) to give the precipitate, which was collected by filtration to afford (S)-2-(4-fluorophenyl)-7-hydroxy-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylic acid as a light yellow solid (100 mg, 69%).

reactant | (S)-methyl 2-(4-fluorophenyl)-7-hydroxy-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate | 0.39 mmol, 150 mg | FC1=CC=C(C=C1)C1=NC2=CC(=C(C=C2N=C1N1[C@H](CCC1)C)C(=O)OC)O | C21H20FN3O3
reactant | sodium hydroxide | 0.49 mmol, 19.5 mg | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
solvent | water | 1 ml | O | H2O
product | (S)-2-(4-fluorophenyl)-7-hydroxy-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylic acid | 100 mg, 69% | FC1=CC=C(C=C1)C1=NC2=CC(=C(C=C2N=C1N1[C@H](CCC1)C)C(=O)O)O | C20H18FN3O3
